US07312214B2
Part C. The product from part B (1.20 g, 3.97 mmol) and 1-(4-methoxyphenyl)-3-(trifluoromethyl)-1,4,5,6-tetrahydro-7H-pyrazolo[3,4-c]pyridin-7-one (0.87 g, 2.8 mmol) were stirred in DMSO (3 mL) under N2. K2CO3 (1.16 g, mmol, 3.0 eq) was added followed by the addition of 1,10-phenanthroline (100 mg, 20 mol %) and CuI (106 mg, 20 mol %). The resulting mixture was stirred at 130° C. overnight. LC-MS showed completion of the reaction. EtOAc was added to the cooled solution. The solution was acidified with 1N HCl, and the organic layer was washed with H2O and and brine, dried over MgSO4, filtered, and concentrated to afford 1-{4-[1-(4-methoxyphenyl)-7-oxo-3-(trifluoromethyl)-1,4,5,7-tetrahydro-6H-pyrazolo[3,4-c]pyridin-6-yl]phenyl}cyclobutane carboxylic acid (1.34 g, yield 97%). LC/MS (ESI+) 486.6 (M+H)+, tR=2.81 min (10–90% CH3CN/H2O in a 4-min run).

reactant | 1-(4-methoxyphenyl)-3-(trifluoromethyl)-1,4,5,6-tetrahydro-7H-pyrazolo[3,4-c]pyridin-7-one | 2.8 mmol, 0.87 g | COC1=CC=C(C=C1)N1N=C(C2=C1C(NCC2)=O)C(F)(F)F | C14H12F3N3O2
reactant | K2CO3 | 1.16 g, 3.0 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,10-phenanthroline | 100 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | HCl | 1N | Cl | ClH
reactant | DMSO | 3 mL | CS(=O)C | C2H6OS
catalyst | CuI | 106 mg | [Cu]I
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-{4-[1-(4-methoxyphenyl)-7-oxo-3-(trifluoromethyl)-1,4,5,7-tetrahydro-6H-pyrazolo[3,4-c]pyridin-6-yl]phenyl}cyclobutane carboxylic acid | 1.34 g, yield 97% | COC1=CC=C(C=C1)N1N=C(C2=C1C(N(CC2)C2=CC=C(C=C2)C2(CCC2)C(=O)O)=O)C(F)(F)F | C25H22F3N3O4
